US04160036
(ii) 4-(4-Fluorophenyl)-2-methyl-2-butanamine, hydrochloride
Sulphuric acid (d. 1.84, 18 ml) was added dropwise over 10 min. to an ice-cold stirred suspension of potassium cyanide (9.5 g) and 4-(4-fluorophenyl)-2-methyl-2-butanol (10.0 g) in chloroform (80 ml). The mixture was allowed to warm to room temperature and was stirred over 20 hr. The mixture was basified with 5 N sodium hydroxide solution and was extracted with chloroform. The solvent was removed to leave a pale yellow oil which was treated with hydrochloric acid (d. 1.18, 30 ml) at reflux for 1 hr. The product (9.0 g) crystallised from the acid solution as colourless plates, m.p. 200°-201°.

reactant | Sulphuric acid | 18 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium cyanide | 9.5 g | [C-]#N.[K+]
reactant | 4-(4-fluorophenyl)-2-methyl-2-butanol | 10.0 g | FC1=CC=C(C=C1)CCC(C)(O)C | C11H15FO
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-Fluorophenyl)-2-methyl-2-butanamine, hydrochloride | Cl.FC1=CC=C(C=C1)CCC(C)(N)C | InChI=1S/C11H16FN.ClH/c1-11(2,13)8-7-9-3-5-10(12)6-4-9;/h3-6H,7-8,13H2,1-2H3;1H
